US09260408B2
[B] 6-(5-Chloromethyl-pyridin-3-yl)-1-methyl-3,4-dihydro-1H-quinolin-2-one
At 0° C., 6-(5-hydroxymethyl-pyridin-3-yl)-1-methyl-3,4-dihydro-1H-quinolin-2-one (190 mg, 0.7 mmol) in DCM (15 mL) was treated slowly with thionyl chloride (0.32 mL, 4.0 mmol). After the addition, the reaction mixture was allowed to stir at 2-5° C. for 2 hours before it was poured into satd. aq. NaHCO3 solution (50 mL). After extraction with EtOAc, the organic layer was washed with brine, dried over anhydrous Na2SO4, filtered and concentrated in vacuo to give title compound (190 mg, 93.5%) as yellow oil. MS: 287.1 (M+H+).

reactant | 6-(5-hydroxymethyl-pyridin-3-yl)-1-methyl-3,4-dihydro-1H-quinolin-2-one | 0.7 mmol, 190 mg | OCC=1C=C(C=NC1)C=1C=C2CCC(N(C2=CC1)C)=O | C16H16N2O2
reactant | thionyl chloride | 4.0 mmol, 0.32 mL | S(=O)(Cl)Cl | Cl2OS
reactant | NaHCO3 | 50 mL | C(=O)(O)[O-].[Na+]
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
product | 6-(5-Chloromethyl-pyridin-3-yl)-1-methyl-3,4-dihydro-1H-quinolin-2-one | 190 mg, 93.5% | ClCC=1C=C(C=NC1)C=1C=C2CCC(N(C2=CC1)C)=O | C16H15ClN2O
